US06083479
b) 2-Benzyloxycarbonylamino-heptadecanoic acid
6.82 g (40 mmol) of benzyl chloroformate (Z--Cl) is added in drops to 10 g (35.03 mmol) of the title compound of Example 19a and 8.86 g (87.57 mmol) of triethylamine in 200 ml of tetrahydrofuran at 0° C. It is stirred for 5 hours at 0° C. It is evaporated to the dry state in a vacuum, the residue is taken up in 300 ml of dichloromethane and washed twice with 200 ml of 5% aqueous hydrochloric acid each. The organic phase is dried on magnesium sulfate and evaporated to the dry state. The residue is recrystallized from diisopropyl ether.

reactant | benzyl chloroformate | 40 mmol, 6.82 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | triethylamine | 87.57 mmol, 8.86 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-Benzyloxycarbonylamino-heptadecanoic acid | 35.03 mmol, 10 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)CCCCCCCCCCCCCCC | C25H41NO4
